US07795283B2
i) Methyl (6-chloro-1-oxidopyridin-3-yl)acetate
Hydrogen peroxide (0.409 mL of a 30% aqueous solution, 3.6 mmol) was added slowly to a stirred solution of trifluoroacetic anhydride (0.915 mL, 6.55 mmol) in DCM (5 mL) with heating under reflux. After 30 min, methyl (6-chloropyridin-3-yl)acetate (Indian Journal of Chemistry, Section B: Organic Chemistry Including Medicinal Chemistry (2004), 43B(4), 864) (608 mg, 3.28 mmol) was added as a solution in DCM (5 mL). The reaction mixture was stirred under reflux for 1 h and then allowed to cool with stirring for 16 h. Solid potassium carbonate was added until there was no more effervescence then the mixture was filtered, concentrated by evaporation and the resultant oil was triturated with Et2O to give the title compound (291 mg, 44%) as a solid; 1H NMR δ 3.64 (s, 3H), 3.79 (s, 2H), 7.30 (d, 1H), 7.75 (d, 1H), 8.45 (s, 1H); MS m/e MH+ 202.

reactant | Hydrogen peroxide | OO | H2O2
reactant | trifluoroacetic anhydride | 6.55 mmol, 0.915 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | methyl (6-chloropyridin-3-yl)acetate | 3.28 mmol, 608 mg | ClC1=CC=C(C=N1)CC(=O)OC | C8H8ClNO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | Methyl (6-chloro-1-oxidopyridin-3-yl)acetate | 291 mg, 44% | ClC1=CC=C(C=[N+]1[O-])CC(=O)OC | C8H8ClNO3
